2144-12-25 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2144-12-24**] 04:30 PM
 INDWELLING PORT (PORTACATH) - START [**2144-12-24**] 04:37 PM
 MAGNETIC RESONANCE IMAGING - At [**2144-12-24**] 11:43 PM
   - changed to 5/5
   - for phos of 0.8 given potassiumphos 30 mmol, neutraphos 2 pkts
   Allergies:
   Vincristine
   Neurotoxicity;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2144-12-25**] 01:37 AM
   Other medications:
   . Lansoprazole Oral Disintegrating Tab 30 mg PO/NG DAILY  Order date:
   [**12-24**] @ 2348
   . Metoprolol Tartrate 12.5 mg PO/NG [**Hospital1 **]
   Please hold for SBP < 110 or HR < 55  Order date: [**12-24**] @ 1814
   Acetaminophen [**Telephone/Fax (1) 1848**] mg PO/NG Q6H:PRN pain  Order date: [**12-24**] @ 1822
   Midazolam 0.5-10 mg/hr IV DRIP TITRATE TO sedation
   Patient must have adequate airway support prior to administration of
   dose.  Order date: [**12-24**] @ [**2151**]
   . Artificial Tears 1-2 DROP BOTH EYES PRN dry eyes  Order date: [**12-24**] @
   2333
   Multivitamins 1 TAB PO/NG DAILY  Order date: [**12-24**] @ 1814
   Bisacodyl 10 mg PO/PR DAILY:PRN constipation  Order date: [**12-24**] @ [**2071**]
   Neutra-Phos 2 PKT PO/NG ONCE Duration: 1 Doses Order date: [**12-25**] @ 0052
   Ondansetron 4 mg IV Q8H:PRN nausea  Order date: [**12-24**] @ 1822
   Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL [**Hospital1 **]
   . Citalopram Hydrobromide 20 mg PO/NG DAILY  Order date: [**12-24**] @ 1822
   . Polyethylene Glycol 17 g PO/NG DAILY
   Hold for loose stools  Order date: [**12-24**] @ 1822
   . Fentanyl Citrate 25-250 mcg/hr IV DRIP TITRATE TO sedation  Order
   date: [**12-24**] @ [**2151**]
   Propofol 5-50 mcg/kg/min IV DRIP TITRATE TO sedation  Order date: [**12-24**]
   @ 1818
   Senna 1 TAB PO/NG TID
   Please hold for loose stools.  Order date: [**12-24**] @ 2225
   . Lactulose 30 mL PO/NG Q6H:PRN constipation  Order date: [**12-24**] @ 1822
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-25**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 108 (80 - 108) bpm
   BP: 140/90(102) {128/90(99) - 155/108(118)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     88 mL
                                                                    621 mL
   PO:
             TF:
   IVF:
                                                                     88 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    260 mL
   Urine:
                                                                    690 mL
                                                                    260 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -802 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 676 (676 - 676) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 19 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.44/33/205/25/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 512
   Physical Examination
   Gen: NAD, withdraws arms to pain, follows commands by squeezing hands
   but not opening eyes, pectus excavatum, large jaw, and hands
   CV: RRR nl s1/s2 no m
   Pulm: CTA b/l
   Abd: +BS, soft NTND
   Neuro: PERRL but sluggish
   Labs / Radiology
   202 K/uL
   11.4 g/dL
   90 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.2 mEq/L
   5 mg/dL
   109 mEq/L
   142 mEq/L
   33.2 %
   6.7 K/uL
        [image002.jpg]
                            [**2144-12-24**]  07:22 PM
                            [**2144-12-24**]  11:25 PM
   WBC
   6.7
   Hct
   33.2
   Plt
   202
   Cr
   0.4
   TCO2
   23
   Glucose
   90
   Other labs: PT / PTT / INR:15.9/31.5/1.4, ALT / AST:[**9-29**], Alk Phos / T
   Bili:72/0.3, Differential-Neuts:85.0 %, Lymph:9.2 %, Mono:4.2 %,
   Eos:1.4 %, Albumin:3.6 g/dL, LDH:489 IU/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:0.8 mg/dL
   [**12-24**] blood and urine ctx pending
   MRI: New
   abnormal hyperintensity on T2/FLAIR in right temporal lobe and anterior
   left
   temporal lobe compared to MR one month ago. DDx includes neoplasm
   such as lymphoma (apparent mild enhancement of right temporal focus
   relative
   to background brain parenchyma; though the short-interval change argues
   slightly against). Also consider acute hemorrhage (iso T1, hyper T2;
   though
   CT density of only ~ 44, and no corresponding abnormality on GRE argue
   against). Pituitary mass again seen. MRA/MRV: No vascular occlusion or
   sinus
   thrombosis. [**Doctor Last Name 5284**] D/W Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3127**] (medicine resident) 11:45 p
   [**2144-12-24**].
   CT head:
   Study limited by motion (though 5 attempts made). However, impression
   of
   mildly increased density diffusely, interdigitating with sulci,
   especially
   near skull base. Given the concern for hemorrhage, and lack of IV
   contrast
   administration, this may represent subarachnoid hemorrhage. MRI had
   already
   been ordered, but discussed with Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3127**] 9p [**2144-12-24**].
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Acute Mental Status Change, Pituitary Macroadenoma, Acromegaly
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   41 yo gentleman with h/o acromegaly and high grade B-cell lymphoma (s/p
   admission at [**Hospital1 1**] from [**2144-7-11**] to [**2144-11-12**]) who was transferred
   from [**Hospital6 797**] following episode of altered mental status
   early today that led to intubation for airway protection.
   #. Altered mental status:  Patient
s mental status changes severe
   enough to warrant intubation for airway protection. Initial concern for
   intracerebral hemorrhage given Head CT report from [**Hospital3 1573**], aniscoria, systemic anticoagulation with enoxaparin, and
   report of acute mental status changes. Possible etiologies of ICH would
   be an ischemic stroke with hemorrhagic conversion, spontaneous bleed in
   setting of systemic anticoagulation, or unrealized trauma.   STAT head
   CT here (limited by motion) was able to rule out massive hemorrhage
   causing herniation, though still possibility of small hermorrhage.
   Additionally, this presentation could represent a recurrence of his
   lymphoma, which was formerly thought to be in remission. Must consider
   that observed behavior and resulting mental status changes at [**Hospital 9798**] were consistent with a seizure. Is possible that
   patient's serotonergic medications of citalopram, nortriptyline, and
   dilaudid acted to create a serotonin syndrome that presented with
   patient turning head to right due to increased tone. On physical exam
   at this time, muscle tone is essentially normal and patient has no
   history of fevers or clonus at OSH. Must also consider that his
   presentation is related to meningitis or encephalitis, though no
   prodrome of illness aside from nausea and vomiting and no reported
   fevers. As for other infections, should screen with blood culture, UA
   (was seen to have [**6-24**] RBCs and WBCs at OSH), and CXR. No elevation in
   livier enzymes and ammonia of 27 at [**Hospital3 **], both of which are
   inconsistent with a hepatic encephalopathy.
   MRI here with ?hemorrhage versus malignancy.  In the settind of
   elevated LDH, this could be an indication of recurrent disease. Phos
   decreased dramatically which could have caused a metabolic
   encephaolpathy or precipitated a seizure.
   - Will keep patient intubated for now pending LP.
   - Appreciate neurology consult input
   - Appreciate neurosurgery consult input
   - am labs after phos repletion
   - Hold on further dilaudid or nortriptyline at this time, though may
   continue to give citalopram to aboid withdrawal from SSRI
   - hodl LP for now
   - blood cultures Uctx to screen for additional sources of infection
   that can cause acute mental status changes
   # Respiratory failure: sputum and consolidation on CXR suggest possible
   healthcare associated pneumonia
   - sent sputum ctx
   - plan for 10 day course with Vancomycin/Cefepime pending ctx data
   #  hypophosphatemia: unclear etiology.  Unknown why it would be due to
   decreased absorption.  Also could be from increased losses.  Unlikely
hungry bone
 given normal calcium.   Could contribute to MS changes at
   this low of a level.
   -check PTH
   -urine lyes
   -repeat levels later this am
   #. Nausea and vomiting:
   Patient's original presenting complaint to [**Hospital6 797**] was
   nausea and vomiting. Abdominal films and upper GI series have yet been
   unrevealing. Some concern that this may be attributed to increased ICH
   in setting of known pituitary macroadenoma or new recurrence of NCS
   lymphoma.
   - Treat supportively with ondansetron
   #. Report of abnormal EKG:
   Copy of EKG was not sent with patient; however, reportedly had diffuse
   ST and T changes that were attributed to nausea and vomiting and
   resulting electrolyte abnormalities. Two sets of cardiac enzymes were
   reportedly negative at [**Hospital6 797**]. ECHO was performed and
   showed anteroseptal akinesis of left ventricle, which is new
   -EKG here unchanged from 2 prior with exception of ?U waves
   - TEE to fully assess
   # Diffuse large B-cell lymphoma:
   Patient is reportedly in remission after hyper-CVAD, R-[**Hospital1 **], HD
   methotrexate, and intrathecal methotrexate. Possible his AMS is related
   to recurrence of his lymphoma.
   - Appreciate consultation from BMT service- consult heme/onc this am
   - Consider LP to rule out recurrent CNS lymphoma however unclear if can
   do this in the setting of MRI changes
   # Acromegaly and Pituitary Macroadenoma:
   Recent labs to check HPA showed normal TSH, LH, testosterone, and
   cortisol with slightly high FSH (14, ULN: 12) and high prolactin at 26
   (ULN: 15).
   - Will eventually need surgical resection that was to be set up on
   outpatient basis; though, appointment with neurosurgery was [**2144-12-24**]
   and will need to be rescheduled
   # Sacral decubitus ulcer:
   Reportedly a stage IV ulcer with recent pseudomonal infection. Appears
   to be without obvious infection at this time as drainage is
   serosanguinous.
   - Wound care consult
   - Potential surgery consult for further debridement pending full
   evaluation from wound care team
   # Constipation:
   - Standing polyethylene glycol and senna
   - PRN bisacodyl and lactulose
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: None indicated at this time, will initiate QID
   fingersticks if serum glucose elevated
   Lines:  18 Gauge - [**2144-12-24**] 04:36 PM, Indwelling Port (PortaCath) -
   [**2144-12-24**] 04:37 PM, 20 Gauge - [**2144-12-24**] 06:33 PM
   Prophylaxis:
   - DVT ppx with pneumoboots while patient has contraindication to
   anticoagulation
   - Lansoprazole for stress ulcer prophylaxis
   - Bowel regimen with senna, polyethylene glycol, bisacodyl, lactulose
   - Pain management with acetaminophen
   Communication:  [**Name (NI) 1068**] [**Name (NI) 7003**] (HCP): Primary ph [**Telephone/Fax (1) 7004**], Secondary
   ph [**Telephone/Fax (1) 7209**]
   Code status: Full code
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  PICC today
   18 Gauge - [**2144-12-24**] 04:36 PM
   Indwelling Port (PortaCath) - [**2144-12-24**] 04:37 PM
   20 Gauge - [**2144-12-24**] 06:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-12-27 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2144-12-26**] 10:57 AM
 INVASIVE VENTILATION - STOP [**2144-12-26**] 10:57 AM
 PAN CULTURE - At [**2144-12-27**] 04:07 AM
   bc x2 urine cult   no sputum obtained
   -BMT says defer to Dr. [**Last Name (STitle) 980**], but will likely need whole brain XRT and
   intrathecal chemo
   -Dr. [**Last Name (STitle) 980**]: Start dexamethasone.  Call [**Last Name (STitle) **]-onc first thing monday AM
   because he needs whole brain irradiation (and [**Last Name (STitle) **] onc won't do this
   over weekend).  No MTX, as he had it in [**Month (only) **] and likely has
   resistant disease.
   - self-extubated, ABG: 7.51/25/67/21
   - not taking PO: changed metoprolol to IV and he didn't get rest of PO
   meds
   - restarted lovenox but at 70 (was previously on 90 and we couldn't
   figure out why)
   -sputum Cx growing GPCs -> on precautions
   - rash started on chest, face (flat, red)
   Allergies:
   Vincristine
   Neurotoxicity;
   Last dose of Antibiotics:
   Cefipime - [**2144-12-26**] 11:50 AM
   Vancomycin - [**2144-12-26**] 09:00 PM
   Acyclovir - [**2144-12-27**] 04:09 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2144-12-26**] 05:38 PM
   Other medications:
   Acetaminophen 4. Acyclovir 5. Artificial Tears 6. Bisacodyl 7. CefePIME
   8. Chlorhexidine Gluconate 0.12% Oral Rinse
   9. Citalopram Hydrobromide 10. Dexamethasone 11. Dexamethasone 12.
   Enoxaparin Sodium 13. Fentanyl Citrate
   14. Heparin Flush (10 units/ml) 15. Heparin Flush (100 units/ml) 16.
   17. Lactulose 18. Lansoprazole Oral Disintegrating Tab
   19. Magnesium Sulfate 20. Metoprolol Tartrate 21. Metoprolol Tartrate
   22. Midazolam 23. Multivitamins
   24. Neutra-Phos 25. Ondansetron 26. Polyethylene Glycol 27. Senna 28.
   Sodium Chloride 0.9% Flush
   29. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-27**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37
C (98.6
   HR: 108 (90 - 117) bpm
   BP: 144/96(111) {122/75(91) - 156/106(118)} mmHg
   RR: 28 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 74.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,554 mL
                                                                    246 mL
   PO:
                                                                    170 mL
                                                                     75 mL
   TF:
                                                                     80 mL
   IVF:
                                                                  2,034 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    390 mL
   Urine:
                                                                  2,300 mL
                                                                    390 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                    174 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (690 - 690) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.51/25/67/23/0
   Ve: 8 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Gen: grunts to his eyes being opened, otherwise sleeping and does not
   follow commands
   CV: RRR nl s1 s2 no m
   HEENT: pupils mildly dilated left, reactive
   Pulm: crackles at bases b/l
   Abd: +BS, soft NTND
   Ext: 1+ b/l LE edema
   Labs / Radiology
   260 K/uL
   12.8 g/dL
   95 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   10 mg/dL
   102 mEq/L
   137 mEq/L
   37.6 %
   7.9 K/uL
        [image002.jpg]
                            [**2144-12-24**]  07:22 PM
                            [**2144-12-24**]  11:25 PM
                            [**2144-12-25**]  09:18 AM
                            [**2144-12-26**]  04:25 AM
                            [**2144-12-26**]  01:10 PM
                            [**2144-12-27**]  02:31 AM
   WBC
   6.7
   6.5
   7.3
   7.9
   Hct
   33.2
   31.2
   32.5
   37.6
   Plt
   [**Telephone/Fax (3) 9847**]60
   Cr
   0.4
   0.4
   0.3
   0.5
   TCO2
   23
   21
   Glucose
   90
   92
   81
   95
   Other labs: PT / PTT / INR:15.4/32.4/1.4, Albumin:3.6 g/dL, LDH:681
   IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Imaging: CXR:
   Microbiology: blood 12/10, 13 pending
   urine [**12-27**] pending
   CSF [**12-25**] ctx NGTD, fungal pending
   [**12-25**] sputum coag + staph
   urine [**12-24**] negative
   UA 2:30am: neg UTI with 5 WBC, 30 protein, net nitrite, 5 RBC, +ketones
   PEP: Pnd
   b2micro: Pnd
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Acute Mental Status Change, Pituitary Macroadenoma, Acromegaly
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   41 yo gentleman with h/o acromegaly and high grade B-cell lymphoma (s/p
   admission at [**Hospital1 1**] from [**2144-7-11**] to [**2144-11-12**]) who was transferred
   from [**Hospital6 797**] following episode of altered mental status
   that led to intubation for airway protection now s/p self extubation
   [**12-26**].
   #. Altered mental status:  Most likely due to recurrence of lymphoma in
   CNS, also some concern for infection or hemorrhage.  STAT head CT here
   (limited by motion) was able to rule out massive hemorrhage causing
   herniation, though still possibility of small hermorrhage.  Could also
   be seizure.  MRI here with ?hemorrhage versus malignancy.  In the
   setting of elevated LDH and preliminary LP results, most likely
   recurrent lymphoma.
   - Appreciate neurology consult input
   - Appreciate neurosurgery consult input
   - Appreicate BMT input
   - Appreciate neuro/onc input
   - FU final LP results and heme/path
   - Hold on further dilaudid or nortriptyline at this time, though may
   continue to give citalopram to avoid withdrawal from SSRI
   - Continue Dexamethasone 4 mg IV Q6H per Dr. [**Last Name (STitle) 980**]
   - d/c Acyclovir as per neuro did not suggest it and it seems this is
   lymphoma according to LP
   - send VBG
   # Respiratory failure/Coag + Staph sputum: Sputum and consolidation on
   CXR suggest possible healthcare associated pneumonia.  Patient was
   intubated for airway protection at OSH
   - f/u sputum ctx
   - plan for 10 day course with Vancomycin/Cefepime, today is day 3 of 10
   # Diffuse large B-cell lymphoma: Patient is reportedly in remission
   after hyper-CVAD, R-[**Hospital1 **], HD methotrexate, and intrathecal
   methotrexate but LP suggests that he is having recurrence.
   - Appreciate multiple consulting services
   - FU LP results
   - [**Month (only) 11**] need full brain XRT vs methotrexate, Contact [**Name (NI) **]-Onc early Monday
   #. Rash: likely drug rash, possibly [**2-17**] Vancomycin
   #. Nausea and vomiting: Patient's original presenting complaint to [**Hospital 9798**] was nausea and vomiting. Abdominal films and upper GI
   series have yet been unrevealing.  Likely related to increased ICP
   given high opening LP pressure.
   - Treat supportively with ondansetron and dexamethasone
   - bolus 1L now then start maintenance fluids as not taking good PO
   - IV phos
   #. History of DVT in [**8-23**]: Supposed to be on Lovenox for 6 months
   after the event.
   - restarted lovenox for anticoagulation
   #. Report of abnormal EKG: Copy of EKG was not sent with patient;
   however, reportedly had diffuse ST and T changes that were attributed
   to nausea and vomiting and resulting electrolyte abnormalities. Two
   sets of cardiac enzymes were reportedly negative at [**Hospital3 1573**]. ECHO was performed and showed anteroseptal akinesis of left
   ventricle, which is new
   -EKG here unchanged from 2 prior with exception of ?U waves
   - TTE here without change from previous except dynamic LV
   # Acromegaly and Pituitary Macroadenoma: Recent labs to check HPA
   showed normal TSH, LH, testosterone, and cortisol with slightly high
   FSH (14, ULN: 12) and high prolactin at 26 (ULN: 15).
   - Will eventually need surgical resection that was to be set up on
   outpatient basis; though, appointment with neurosurgery was [**2144-12-24**]
   - Defer until malignancy workup/tx complete
   # Sacral decubitus ulcer: Reportedly a stage IV ulcer with recent
   pseudomonal infection. Appears to be without obvious infection at this
   time as drainage is serosanguinous.
   - Wound care recs applied
   ICU Care
   Nutrition: ?PEG in near future, will readdress tomorrow as not taking
   good PO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2144-12-24**] 04:37 PM
   20 Gauge - [**2144-12-25**] 08:00 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: discuss plan with HCP today
   [**Name2 (NI) 129**] status: Full code
   Disposition: ICU level care

2144-12-28 07:38:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: AMS
   24 Hour Events:
   - Stopped acyclovir
   - Venous gas: 7.45/33
   - Discussed with HCP
   - ?needs PEG if doesn't perk up to eat- will need to confirm with HCP
   - Need to call [**Hospital Unit Name **]/onc first thing in AM
   - Required continued electrolyte repletion
 FEVER - 101.2
F - [**2144-12-28**] 06:00 AM
   Allergies:
   Vincristine
   Neurotoxicity;
   Last dose of Antibiotics:
   Acyclovir - [**2144-12-27**] 04:09 AM
   Vancomycin - [**2144-12-27**] 08:18 PM
   Cefipime - [**2144-12-28**] 12:17 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2144-12-27**] 06:07 PM
   Enoxaparin (Lovenox) - [**2144-12-27**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-28**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 96 (93 - 112) bpm
   BP: 145/109(118) {132/80(99) - 166/116(127)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72 kg (admission): 74.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,542 mL
                                                                  1,379 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  3,442 mL
                                                                  1,379 mL
   Blood products:
   Total out:
                                                                  2,730 mL
                                                                  1,480 mL
   Urine:
                                                                  2,730 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    812 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: grunts to his eyes being opened, otherwise sleeping and does not
   follow commands
   CV: RRR nl s1 s2 no m
   HEENT: pupils mildly dilated left, reactive
   Pulm: crackles at bases b/l
   Abd: +BS, soft NTND
   Ext: 1+ b/l LE edema
   Labs / Radiology
   230 K/uL
   12.0 g/dL
   136 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.3 mEq/L
   8 mg/dL
   98 mEq/L
   132 mEq/L
   33.8 %
   6.9 K/uL
        [image002.jpg]
   From 1am
                            [**2144-12-24**]  07:22 PM
                            [**2144-12-24**]  11:25 PM
                            [**2144-12-25**]  09:18 AM
                            [**2144-12-26**]  04:25 AM
                            [**2144-12-26**]  01:10 PM
                            [**2144-12-27**]  02:31 AM
                            [**2144-12-28**]  01:16 AM
   WBC
   6.7
   6.5
   7.3
   7.9
   6.9
   Hct
   33.2
   31.2
   32.5
   37.6
   33.8
   Plt
   [**Telephone/Fax (3) 9847**]60
   230
   Cr
   0.4
   0.4
   0.3
   0.5
   0.4
   TCO2
   23
   21
   Glucose
   90
   92
   81
   95
   136
   Other labs: PT / PTT / INR:15.3/37.6/1.3, ALT / AST:[**8-27**], Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:17/11, Differential-Neuts:85.0 %,
   Lymph:9.2 %, Mono:4.2 %, Eos:1.4 %, Albumin:3.6 g/dL, LDH:796 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   [**12-24**] and [**12-27**] blood cx pending
   [**12-24**] urine cx final no growth
   [**12-27**] urine cx pending
   [**12-25**] CSF cx NGTD
[**2144-12-25**] 8:45 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2144-12-25**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN CLUSTERS.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
         OF TWO COLONIAL MORPHOLOGIES.
   [**2144-12-27**] CXR
   The endotracheal tube is no longer visualized. This is a rotated
   film. There is bilateral lower lobe subsegmental atelectasis. The right
   Port-A-Cath is unchanged.
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Acute Mental Status Change, Pituitary Macroadenoma, Acromegaly
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID)
   41 yo gentleman with h/o acromegaly and high grade B-cell lymphoma (s/p
   admission at [**Hospital1 1**] from [**2144-7-11**] to [**2144-11-12**]) who was transferred
   from [**Hospital6 797**] following episode of altered mental status
   that led to intubation for airway protection now s/p self extubation
   [**12-26**].
   #. Altered mental status:  Most likely due to recurrence of lymphoma in
   CNS, also some concern for infection or hemorrhage.  STAT head CT here
   (limited by motion) was able to rule out massive hemorrhage causing
   herniation, though still possibility of small hermorrhage.  Could also
   be seizure.  MRI here with ?hemorrhage versus malignancy.  In the
   setting of elevated LDH and preliminary LP results, most likely
   recurrent lymphoma.
   - Appreciate neurology consult input
   - Appreciate neurosurgery consult input
   - Appreicate BMT input
   - Appreciate neuro/onc input
   - FU final LP results and heme/path
   - Hold on further dilaudid or nortriptyline at this time, though may
   continue to give citalopram to avoid withdrawal from SSRI
   - Continue Dexamethasone 4 mg IV Q6H per Dr. [**Last Name (STitle) 980**]
   - d/c Acyclovir as per neuro did not suggest it and it seems this is
   lymphoma according to LP
   - send VBG
   # Respiratory failure/Coag + Staph sputum: Sputum and consolidation on
   CXR suggest possible healthcare associated pneumonia.  Patient was
   intubated for airway protection at OSH
   - f/u sputum ctx
   - plan for 10 day course with Vancomycin/Cefepime, today is day 3 of 10
   # Diffuse large B-cell lymphoma: Patient is reportedly in remission
   after hyper-CVAD, R-[**Hospital1 **], HD methotrexate, and intrathecal
   methotrexate but LP suggests that he is having recurrence.
   - Appreciate multiple consulting services
   - FU LP results
   - [**Month (only) 11**] need full brain XRT vs methotrexate, Contact [**Name (NI) **]-Onc early Monday
   #. Rash: likely drug rash, possibly [**2-17**] Vancomycin
   #. Nausea and vomiting: Patient's original presenting complaint to [**Hospital 9798**] was nausea and vomiting. Abdominal films and upper GI
   series have yet been unrevealing.  Likely related to increased ICP
   given high opening LP pressure.
   - Treat supportively with ondansetron and dexamethasone
   - bolus 1L now then start maintenance fluids as not taking good PO
   (D51/2NS @125)
   - IV phos
   #. History of DVT in [**8-23**]: Supposed to be on Lovenox for 6 months
   after the event.
   - restarted lovenox for anticoagulation
   #. Report of abnormal EKG: Copy of EKG was not sent with patient;
   however, reportedly had diffuse ST and T changes that were attributed
   to nausea and vomiting and resulting electrolyte abnormalities. Two
   sets of cardiac enzymes were reportedly negative at [**Hospital3 1573**]. ECHO was performed and showed anteroseptal akinesis of left
   ventricle, which is new
   -EKG here unchanged from 2 prior with exception of ?U waves
   - TTE here without change from previous except dynamic LV
   # Acromegaly and Pituitary Macroadenoma: Recent labs to check HPA
   showed normal TSH, LH, testosterone, and cortisol with slightly high
   FSH (14, ULN: 12) and high prolactin at 26 (ULN: 15).
   - Will eventually need surgical resection that was to be set up on
   outpatient basis; though, appointment with neurosurgery was [**2144-12-24**]
   - Defer until malignancy workup/tx complete
   # Sacral decubitus ulcer: Reportedly a stage IV ulcer with recent
   pseudomonal infection. Appears to be without obvious infection at this
   time as drainage is serosanguinous.
   - Wound care recs applied
   ICU Care
   Nutrition: ?need for PEG
   Glycemic Control:
   Lines: Indwelling Port (PortaCath) - [**2144-12-24**] 04:37 PM
   20 Gauge - [**2144-12-27**] 08:04 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 1068**] [**Name (NI) 7003**] (HCP): Primary ph [**Telephone/Fax (1) 7004**],
   Secondary ph [**Telephone/Fax (1) 7209**]
   Code status: Full code
   Disposition: ICU for now

2144-12-29 05:56:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: CNS Lymphoma
   24 Hour Events:
   - [**Doctor Last Name 3337**]/BMT: Feel that intrathecal chemotherapy not possible at this
   point, should try XRT
   - Rad/Onc: Reviewed him in neuro-onc conference.  Want to try XRT
   without intubating him, plan 2 weeks of daily tx, M-F.
   - Went for XRT [**2144-12-28**] for mapping, tolerated well
   - Gave 1L NS at 5pm for tachycardia (HR 120's) and negative fluid
   balance, HR decreased to the 100-110's
   - HCP came in at 6pm today, discussed poor prognosis, plan of care
   - Made CPR not indicated
   - EEG ordered but not done
   - Couldn't get NG tube in
   - Had episode of tachypnea with hiccups at 10pm after attempt to place
   NGT, likely aspirated, no intervention.  At 5am, started to desat to
   the  80's, requiring some suctioning but appeared very uncomfortable.
   Gave 2mg IV morphine and updated HCP about deterioration.
 BLOOD CULTURED - At [**2144-12-28**] 12:52 PM
 RADIATION THERAPY - At [**2144-12-28**] 05:39 PM
   Allergies:
   Vincristine
   Neurotoxicity;
   Last dose of Antibiotics:
   Acyclovir - [**2144-12-27**] 04:09 AM
   Vancomycin - [**2144-12-28**] 07:49 PM
   Cefipime - [**2144-12-29**] 12:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-12-28**] 07:49 PM
   Metoprolol - [**2144-12-29**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-29**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.9
C (98.4
   HR: 113 (85 - 126) bpm
   BP: 160/103(116) {136/84(103) - 160/112(122)} mmHg
   RR: 38 (20 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 74.5 kg
   Height: 65 Inch
             Total In:
                                                                  4,293 mL
                                                                    652 mL
   PO:
             TF:
   IVF:
                                                                  4,293 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    920 mL
   Urine:
                                                                  4,100 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    193 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: Not responsive to verbal or tactile stimuli, does not follow
   commands
   HEENT: pupils mildly dilated left, mildly reactive bilaterally, stable
   from yesterday
   CV: RRR nl s1 s2 no m
   Pulm: Rhonchi bilaterally, increased from yesterday
   Abd: +BS, soft NT, ND
   Ext: 2+ b/l LE pitting edema
   Labs / Radiology
   [image002.gif]
   216 K/uL
   13.7 g/dL
   123 mg/dL
   23 mEq/L
   4.3 mEq/L
   131 mEq/L
   38.6 %
   9.3 K/uL
        [image004.jpg] Bun 10, Crt 0.4
                            [**2144-12-24**]  07:22 PM
                            [**2144-12-24**]  11:25 PM
                            [**2144-12-25**]  09:18 AM
                            [**2144-12-26**]  04:25 AM
                            [**2144-12-26**]  01:10 PM
                            [**2144-12-27**]  02:31 AM
                            [**2144-12-28**]  01:16 AM
                            [**2144-12-28**]  12:17 PM
                            [**2144-12-28**]  09:53 PM
                            [**2144-12-29**]  05:06 AM
   WBC
   6.7
   6.5
   7.3
   7.9
   6.9
   9.3
   Hct
   33.2
   31.2
   32.5
   37.6
   33.8
   38.6
   Plt
   [**Telephone/Fax (2) 9890**]
   Cr
   0.4
   0.4
   0.3
   0.5
   0.4
   0.4
   0.3
   TCO2
   23
   21
   Glucose
   90
   92
   81
   95
   136
   126
   123
   Other labs: PT / PTT / INR:15.3/37.6/1.3, ALT / AST:[**8-27**], Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:17/11, Differential-Neuts:85.0 %,
   Lymph:9.2 %, Mono:4.2 %, Eos:1.4 %, Albumin:3.6 g/dL, LDH:796 IU/L, Ca
   8.6 Mg 2.1 Phos 2.4
   LDH 1094
   Uric Acid 2.2
   [**12-24**], [**12-27**], [**12-28**] blood cx pending
   [**12-24**] urine cx final no growth
   [**12-27**] urine cx final no growth
   [**12-25**] CSF cx NGTD
   [**12-25**] Sputum culture
   STAPH AUREUS COAG +.    MODERATE GROWTH.
 resistant to oxacillin
   CSF PEP pending
   CSF HSV pending
   CT Head [**12-28**]
   Relatively stable vasogenic edema in the temporal lobes as well as
   leptomeningeal hyperdensity and hyperdensity in the left temporal lobe.
   Question of increased hypodensity in the mid brain, recommend
   correlation with
   MRI to exclude the possibility of ischemia.
   CXR today in OMR
   Assessment and Plan
   41 yo gentleman with h/o acromegaly and high grade B-cell lymphoma (s/p
   admission at [**Hospital1 1**] from [**2144-7-11**] to [**2144-11-12**]) who was transferred
   from [**Hospital6 797**] following episode of altered mental status
   that led to intubation for airway protection now s/p self extubation
   [**12-26**].
   #. Tachypnea and Hypoxia: Overnight has had persistent tachypnea and
   hypoxia, requiring face mask for oxygen delivery.  Possibly related to
   aspiration event overnight, but unfortunately more likely related to
   systemic lymphoma as LDH increasing.  Feel that this represents a
   significant downtown in his clinical course and XRT very unlikely to
   benefit him at this time.  Feel that he was uncomfortable overnight and
   responded to morphine.  Best course for the patient at this point is to
   become [**Month/Year (2) **] measures only.
   - Have discussed CMO with health care proxy, will be by this afternoon
   - Continue high-flow oxygen delivery in face tent form to make patient
   comfortable
   - Morphine prn for patient [**Last Name (LF) **], [**First Name3 (LF) **] need to transition to drip at
   some point today
   - Will stop antibiotics at this time, as not [**First Name3 (LF) **] measures
   - Will give 1L NS now to prevent tachycardia and perhaps help patient
   feel better on some level
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID): CSF results and
   clinical picture consistent with recurrent CNS lymphoma.  Now with
   worsening altered mental status despite less sedation.
   - Scheduled for course of XRT today but given clinical deterioration,
   unlikely to benefit him and would cause more distress than benefit.
   Will stop treatments
   - Continue high-dose Decadron for palliation
   - Health care proxy updated on poor prognosis and plan
   - FU final LP results
   - Tumor lysis labs negative at this time
   #. Altered mental status:  Most likely due to recurrence of lymphoma in
   CNS, especially given LP results and increasing LDH.  Still not
   responsive except to noxious stimuli.
   - CT head yesterday not significantly changed from previous but need
   MRI to fully assess
   - FU final LP results and heme/path
   - Continue Decadron as above
   #. Increased urine output: Some concern for central diabetes insipidus
   given known increased intracranial pressure and increased urine
   output.  Now urine output has tapered off and urine appears
   concentrated based on urine lytes.
   #. Hiccups: Unclear if thorazine had benefit yesterday but can continue
   for [**First Name3 (LF) **].
   #. History of DVT in [**8-23**]: Supposed to be on Lovenox for 6 months
   after the event.
   - Will stop Lovenox given CMO status
   # Sacral decubitus ulcer: Reportedly a stage IV ulcer with recent
   pseudomonal infection. Appears to be without obvious infection at this
   time as drainage is serosanguinous.
   - Wound care recs applied for [**Date Range **]
   ICU Care
   Nutrition: None at this time, NG tube unable to be placed, will
   continue to hold
   Glycemic Control:  None
   Lines: Indwelling Port (PortaCath) - [**2144-12-24**] 04:37 PM
   20 Gauge - [**2144-12-27**] 08:04 AM
   Prophylaxis:
   DVT: Lovenox to stop today for CMO status
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 1068**] [**Name (NI) 7003**] (HCP): Primary ph [**Telephone/Fax (1) 7004**],
   Secondary ph [**Telephone/Fax (1) 7209**]
   Code status: DNR/DNI, CMO
   Disposition: ICU for now

2144-12-30 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -talked to HCP and made patient [**Name (NI) 303**]
   -morphine drip started
   -3pm labs: uric acid 2.9 (up slightly), LDH 1096 (stable), K wnl,
   lactate 2.3
   -1L bolus given at 5pm because neg a liter for the day, putting out
   lots of urine
   -FYI: HCP [**Name (NI) 1068**] will be in court tomorrow and unable to answer phone
   for part of day.  If we need to update him, call his wife [**Name (NI) 2463**]
   [**Name (NI) 9907**] at [**Telephone/Fax (1) 9908**] as she will be available all day.  He says he
   has been updating the patient's family.  He also thinks that [**Known firstname 574**]
   would want an autopsy.
   Had several desats to 80s yesterday, NG suctioning performed with
   improvment in Sats.
   Given 2 L NS  because putting out tons of urine.
   Allergies:
   Vincristine
   Neurotoxicity;
   Last dose of Antibiotics:
   Cefipime - [**2144-12-29**] 12:00 AM
   Vancomycin - [**2144-12-29**] 07:47 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2144-12-29**] 07:47 AM
   Metoprolol - [**2144-12-29**] 07:47 AM
   Morphine Sulfate - [**2144-12-30**] 01:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-30**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 125 (117 - 147) bpm
   BP: 119/60(75) {117/60(75) - 193/133(146)} mmHg
   RR: 6 (6 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 74.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,274 mL
                                                                    130 mL
   PO:
             TF:
   IVF:
                                                                  3,274 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                    520 mL
   Urine:
                                                                  3,640 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Face tent on 100 % FiO2
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: Not responsive to verbal or tactile stimuli, does not follow
   commands
   HEENT: pupils mildly dilated left, mildly reactive bilaterally, stable
   from yesterday
   CV: RRR nl s1 s2 no m
   Pulm: Rhonchi bilaterally, increased from yesterday
   Abd: +BS, soft NT, ND
   Ext: 2+ b/l LE pitting edema
   Labs / Radiology
   189 K/uL
   12.9 g/dL
   136 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   38.5 %
   8.3 K/uL
        [image002.jpg]
                            [**2144-12-24**]  11:25 PM
                            [**2144-12-25**]  09:18 AM
                            [**2144-12-26**]  04:25 AM
                            [**2144-12-26**]  01:10 PM
                            [**2144-12-27**]  02:31 AM
                            [**2144-12-28**]  01:16 AM
                            [**2144-12-28**]  12:17 PM
                            [**2144-12-28**]  09:53 PM
                            [**2144-12-29**]  05:06 AM
                            [**2144-12-30**]  04:40 AM
   WBC
   6.7
   6.5
   7.3
   7.9
   6.9
   9.3
   8.3
   Hct
   33.2
   31.2
   32.5
   37.6
   33.8
   38.6
   38.5
   Plt
   [**Telephone/Fax (3) 9890**]
   189
   Cr
   0.4
   0.4
   0.3
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   21
   Glucose
   90
   92
   81
   95
   136
   126
   123
   136
   Other labs: PT / PTT / INR:16.6/30.9/1.5, ALT / AST:[**8-27**], Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:17/11, Differential-Neuts:85.0 %,
   Lymph:9.2 %, Mono:4.2 %, Eos:1.4 %, Lactic Acid:2.3 mmol/L, Albumin:3.6
   g/dL, LDH:1081 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   LDH 1081, Uric Acid 3.9
   [**12-25**] Sputum culture
   STAPH AUREUS COAG +.    MODERATE GROWTH.
 resistant to oxacillin
   [**12-25**] CSF Gram stain:  1+ PMNs, culture pending
   [**12-27**] and [**12-28**] B Cx pending
   CSF cytology pending
   CSF PEP pending
   CSF HSV pending
   No new imaging
   Assessment and Plan
   41 yo gentleman with h/o acromegaly and high grade B-cell lymphoma (s/p
   admission at [**Hospital1 1**] from [**2144-7-11**] to [**2144-11-12**]) who was transferred
   from [**Hospital6 797**] following episode of altered mental status
   that led to intubation for airway protection now s/p self extubation
   [**12-26**], now [**Month/Year (2) 303**] secondary to metastatic disease to the brain.
   #. Tachypnea and Hypoxia: Overnight has had persistent tachypnea and
   hypoxia, requiring face mask for oxygen delivery.  Possibly related to
   aspiration event overnight, but unfortunately more likely related to
   systemic lymphoma as LDH increasing.  Feel that this represents a
   significant downtown in his clinical course and XRT very unlikely to
   benefit him at this time.  Therefore, HCP [**Name (NI) 1850**] and patient made
   [**Name (NI) 303**].
   - Continue high-flow oxygen delivery in face tent form to make patient
   comfortable
   - Morphine drip for patient comfort
   - PRN fluid boluses to help treat tachycardia and perhaps help patient
   feel better on some level
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID): CSF results and
   clinical picture consistent with recurrent CNS lymphoma.  Now with
   worsening altered mental status despite less sedation.
   - Now [**Name (NI) 303**] as above
   - Decadron stopped
   - Health care proxy being updated regularly
   - FU final LP results
   - Tumor lysis labs negative at this time
   #. Altered mental status:  Most likely due to recurrence of lymphoma in
   CNS, especially given LP results and increasing LDH.  Still not
   responsive except to noxious stimuli.
   - Now [**Name (NI) 303**] as above
   #. Increased urine output: Some concern for central diabetes insipidus
   given known increased intracranial pressure and increased urine
   output.
   #. Hiccups: Unclear if thorazine had benefit yesterday but can continue
   for comfort.
   #. History of DVT in [**8-23**]: Supposed to be on Lovenox for 6 months
   after the event.
   - Will stop Lovenox given [**Date Range 303**] status
   # Sacral decubitus ulcer: Reportedly a stage IV ulcer with recent
   pseudomonal infection. Appears to be without obvious infection at this
   time as drainage is serosanguinous.
   - Wound care recs applied for comfort
   ICU Care
   Nutrition: None
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2144-12-24**] 04:37 PM
   20 Gauge - [**2144-12-27**] 08:04 AM
   Prophylaxis:
   DVT: lovenox stopped
   Stress ulcer: oral PPO
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 1068**] [**Name (NI) 7003**] (HCP): Primary ph [**Telephone/Fax (1) 7004**],
   Secondary ph [**Telephone/Fax (1) 7209**]
   Code status: Comfort measures only, DNR/DNI
   Disposition: ICU for now

2144-12-31 07:10:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: CNS Lymphoma
   24 Hour Events:
   - Alerted organ bank to impending death
   - HCP requests measurement of waist for funeral planning
   - Friends and sister [**Name (NI) **] and her husband visited per social work
   note, twin brother [**Name (NI) **] on probation and trying to work out a visit
   - Stopped oxygen therapy
   Allergies:
   Vincristine
   Neurotoxicity;
   Last dose of Antibiotics:
   Cefipime - [**2144-12-29**] 12:00 AM
   Vancomycin - [**2144-12-29**] 07:47 AM
   Infusions:
   Morphine Sulfate - 13 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-12-31**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 125 (116 - 125) bpm
   BP: 123/60(76) {104/48(66) - 129/83(90)} mmHg
   RR: 12 (5 - 16) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72 kg (admission): 74.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,466 mL
                                                                    142 mL
   PO:
             TF:
   IVF:
                                                                  1,466 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,052 mL
                                                                    220 mL
   Urine:
                                                                  1,052 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    414 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 88%
   ABG: ////
   Physical Examination
   Gen: Obtunded, Not responsive to verbal or tactile stimuli, does not
   follow commands, appears comfortably
   CV: RRR nl s1 s2 no m
   Pulm: Relatively clear breath sounds anteriorly with significant upper
   airway rales, slow gasping breaths
   Abd: +BS, soft NT, ND
   Ext: 2+ b/l LE pitting edema
   Labs / Radiology
   189 K/uL
   12.9 g/dL
   136 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   38.5 %
   8.3 K/uL
        [image002.jpg]
   NO LABS TODAY
                            [**2144-12-24**]  11:25 PM
                            [**2144-12-25**]  09:18 AM
                            [**2144-12-26**]  04:25 AM
                            [**2144-12-26**]  01:10 PM
                            [**2144-12-27**]  02:31 AM
                            [**2144-12-28**]  01:16 AM
                            [**2144-12-28**]  12:17 PM
                            [**2144-12-28**]  09:53 PM
                            [**2144-12-29**]  05:06 AM
                            [**2144-12-30**]  04:40 AM
   WBC
   6.7
   6.5
   7.3
   7.9
   6.9
   9.3
   8.3
   Hct
   33.2
   31.2
   32.5
   37.6
   33.8
   38.6
   38.5
   Plt
   [**Telephone/Fax (3) 9890**]
   189
   Cr
   0.4
   0.4
   0.3
   0.5
   0.4
   0.4
   0.3
   0.4
   0.4
   TCO2
   21
   Glucose
   90
   92
   81
   95
   136
   126
   123
   136
   Other labs: PT / PTT / INR:16.6/30.9/1.5, ALT / AST:[**8-27**], Alk Phos / T
   Bili:73/0.3, Amylase / Lipase:17/11, Differential-Neuts:85.0 %,
   Lymph:9.2 %, Mono:4.2 %, Eos:1.4 %, Lactic Acid:2.3 mmol/L, Albumin:3.6
   g/dL, LDH:1081 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   [**12-25**] Sputum culture
   STAPH AUREUS COAG +.    MODERATE GROWTH.
 resistant to oxacillin
   [**12-25**] CSF Gram stain:  1+ PMNs, culture pending
   [**12-27**] and [**12-28**] B Cx pending
   CSF cytology pending
   Serum:
    Protein Electrophoresis
   HYPOGAMMAGLOBULINEMIA
   BASED ON IFE (SEE SEPARATE REPORT),
   NO MONOCLONAL IMMUNOGLOBULIN SEEN
   INTERPRETED BY [**Name6 (MD) **] [**Name8 (MD) 9921**], MD, PHD
   Beta-2 Microglobulin
                                                                       2.1
                                    mg/L
                                  0.8 - 2.2
    RESULTS FROM SAMPLES DRAWN PRIOR TO [**2141-4-3**] ARE IN OUTSIDE LAB SYSTEM
   Immunoglobulin G
                                                                      572*
                                    mg/dL
                                 [**Telephone/Fax (1) 9922**]
    Immunoglobulin A
                                                                       43*
                                    mg/dL
                                  70 - 400
    Immunoglobulin M
                                                                       23*
                                    mg/dL
                                  40 - 230
    Immunofixation
   NO MONOCLONAL IMMUNOGLOBULIN SEEN
   NEGATIVE FOR BENCE-[**Doctor Last Name **] PROTEIN
   INTERPRETED BY [**Name6 (MD) **] [**Name8 (MD) 9921**], MD, PHD
   CSF PEP: OLIGOCLONAL BANDING IS PRESENT IN THE CSF NONE OF THESE BANDS
   HAS A CORRESPONDING
   BAND IN THE PATIENT'S SERUM
   CSF HSV negative
   No new imaging
   Assessment and Plan
   41 yo gentleman with h/o acromegaly and high grade B-cell lymphoma (s/p
   admission at [**Hospital1 1**] from [**2144-7-11**] to [**2144-11-12**]) who was transferred
   from [**Hospital6 797**] following episode of altered mental status
   that led to intubation for airway protection now s/p self extubation
   [**12-26**] and CMO secondary to metastatic disease to the brain.
 LYMPHOMA (CANCER, MALIGNANT NEOPLASM, LYMPHOID): CSF results and
   clinical picture consistent with recurrent CNS lymphoma.  Now with
   worsening altered mental status despite less sedation.
   - Now comfort measures only
   - All non-comfort medications stopped, no blood draws or imaging.
   - Health care proxy being updated regularly, will get waist measurement
   today per his request
   - FU final LP results
   #. Hiccups: Unclear if thorazine is having benefit but can continue for
   comfort.
   #. History of DVT in [**8-23**]: Supposed to be on Lovenox for 6 months
   after the event.
   - Will stop Lovenox given CMO status
   # Sacral decubitus ulcer: Reportedly a stage IV ulcer with recent
   pseudomonal infection. Appears to be without obvious infection at this
   time as drainage is serosanguinous.
   - Wound care recs applied for comfort
   ICU Care
   Nutrition: None
   Glycemic Control: None
   Lines: Indwelling Port (PortaCath) - [**2144-12-24**] 04:37 PM
   20 Gauge - [**2144-12-27**] 08:04 AM
   Prophylaxis:
   DVT: None
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 7003**] (HCP): Primary ph [**Telephone/Fax (1) 7004**],
   Secondary ph [**Telephone/Fax (1) 7209**]
   Code status: Comfort measures only. DNR/DNI
   Disposition: ICU for now